US04563446
p-Toluenesulfonate of (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol (0.45 g, 1.07 mmoles) was dissolved in hexamethylphosphoramide (2 ml), and sodium iodide (0.2 g, 1.3 mmoles) was added to the solution. The mixture was stirred for 10 minutes. To the mixture was added sodium cyanoborohydride (0.1 g, 16 mmoles) and the resulting mixture was stirred at 100° C. for an hour. The reaction mixture was then cooled and water (10 ml) was added followed by extraction of the product with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography using isopropyl ether-ethyl acetate (4:1) as the eluent to give (E)-1-phenyl-1-(3-pyridyl)-1-heptene (0.2 g, 75%) as an oil.

reactant | p-Toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol | 1.07 mmoles, 0.45 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | sodium iodide | 1.3 mmoles, 0.2 g | [I-].[Na+]
reactant | sodium cyanoborohydride | 16 mmoles, 0.1 g | C(#N)[BH3-].[Na+]
solvent | hexamethylphosphoramide | 2 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 10 ml | O | H2O
product | (E)-1-phenyl-1-(3-pyridyl)-1-heptene | 0.2 g, 75% | C1(=CC=CC=C1)/C(=C\CCCCC)/C=1C=NC=CC1 | C18H21N
